US07053089B2
4-[(1H-Benzoimidazol-4-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester
EXAMPLE 105 was prepared from 1H-benzoimidazol-4-ylamine (The 1H-benzoimidazol-4-ylamine was prepared by heating 1.5 g of 3-nitro-benzene-1,2-diamine in 50 mL of triethyl orthoformate with 10 mg of p-toluenesulfonic acid monohydrate at reflux overnight, concentration to dryness under reduced pressure, hydrolysis with refluxing 3N HCl for 1 h and neutralization with NaOH. Then, cooling and collection yielded the 4-nitro-benzimidazole product by filtration. Catalytic reduction using Raney Nickel® in ethanol under 1 atm of hydrogen for 1 h gave 1H-benzoimidazol-4-ylamine as an air sensitive solid) and 4-formyl-piperidine-1-carboxylic acid benzyl ester (prepared from 4-(N-methoxy-N-methyl-carbamoyl)-piperidine-1-carboxylic acid benzyl ester, using the procedures described by S. Nahm and S. W. Weinreb, Tetrahedron Letters, 22:3815–3818(1981)) on a 1 mmol scale by reductive amination in 5 mL of 1,2-dichloromethane using sodium triacetoxyborohydride over 0.5 of Raney Nickel® under 1 atm of hydrogen for 1 h, followed by immediate conversion of the crude, air sensitive triaminopyridine into the imidazo[4,5b]pyridine by heating with 51 mL of 96% formic acid and 2 mL of 37% hydrochloric acid at reflux overnight. The free base was liberated with sodium hydroxide and purified by preparative chromatography, eluting with 90:10 chloroform:methanol: MS (m+1)=365.5.

reactant | 4-(N-methoxy-N-methyl-carbamoyl)-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(N(C)OC)=O | C16H22N2O4
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrogen | [H][H] | H2
reactant | triaminopyridine | NC1=C(C(=NC=C1)N)N | C5H8N4
reactant | hydrochloric acid | 2 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | Raney Nickel | [Ni] | Ni
solvent | formic acid | 51 mL | C(=O)O | CH2O2
product | 4-[(1H-Benzoimidazol-4-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNC1=CC=CC=2NC=NC21 | C21H24N4O2
